US05527791
4-Allyloxy-3-nitrocinnamic acid
4-Allyloxy-3-nitrobenzaldehyde (5 g, 24.1 mM) was dissolved in pyridine (100 ml) and malonic acid (5.02 g, 48.3 mM) and piperidine (0.48 ml, 4.8 mM) added. The mixture was heated to reflux with stirring for 2 hours, cooled, and poured onto a mixture of concentrated hydrochloric acid and ice. Organics were extracted into ethyl acetate, the organic layer washed with 2M hydrochloric acid, and product back-extracted into aqueous NaHCO3. The aqueous solution was then re-acidified (concentrated hydrochloric acid), and organics extracted into ethyl acetate, washed with brine, and dried (MgSO4), to give title compound (4.23 g).

reactant | 4-Allyloxy-3-nitrobenzaldehyde | 24.1 mM, 5 g | C(C=C)OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C10H9NO4
reactant | malonic acid | 48.3 mM, 5.02 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 4.8 mM, 0.48 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-Allyloxy-3-nitrocinnamic acid | 4.23 g | C(C=C)OC1=C(C=C(C=CC(=O)O)C=C1)[N+](=O)[O-] | C12H11NO5
